US04493843
3-(n-Octadecanoyl)indole-6-carboxylic acid (20.5 g) in glacial acetic acid (300 ml), containing perchloric acid (13 ml, of strength 70% w/v), was hydrogenated over palladium on charcoal (3 g of 5% w/w) at atmospheric pressure and at a temperature of 80°-90° C. The mixture was then hot filtered through diatomaceous earth and was poured into water (1500 ml) to give an off-white solid. The solid was collected, washed with water (2×100 ml) and was dissolved in ethyl acetate (100 ml). The ethyl acetate solution was washed with an aqueous solution of sodium carbonate (of strength 2N, 150 ml) and the organic layer was separated and was dried over magnesium sulphate. The organic solvent was removed in vacuo to give (RS)-3-(n-octadecyl)indoline-6-carboxylic acid (8.5 g), in the form of an off-white solid, m.p. 112°-114° C.

reactant | 3-(n-Octadecanoyl)indole-6-carboxylic acid | 20.5 g | C(CCCCCCCCCCCCCCCCC)(=O)C1=CNC2=CC(=CC=C12)C(=O)O | C27H41NO3
reactant | perchloric acid | 13 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
product | (RS)-3-(n-octadecyl)indoline-6-carboxylic acid | 8.5 g | C(CCCCCCCCCCCCCCCCC)C1CNC2=CC(=CC=C12)C(=O)O | C27H45NO2
